US07662771B2
5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester
Add boron tribromide (39 mL, 39 mmol, 1.0 M solution in CH2Cl2) dropwise to a stirred −78° C. solution of 5-[5-(5-chloro-2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (4.39 g, 13 mmol) in CH2Cl2 (40 mL). Allow to warm to room temperature. After 2 hours, cool to −78° C. and add boron tribromide (13 mL, 13 mmol, 1.0 M solution in CH2Cl2) dropwise and allow to warm to room temperature overnight. Quench via dropwise addition of ethanol (60 mL, absolute). Concentrate, dissolve residue in CHCl3, wash with saturated NaHCO3 solution (×2), dry over MgSO4 and concentrate to get 3.7 g of a tan solid. Adsorb on SiO2 and purify the residue by flash chromatography on silica gel eluting with 0-60% EtOAc/hexanes to afford the title compound (3.3 g, 78%). MS (IS) 324 (M+1)+.

reactant | boron tribromide | 39 mmol, 1.0 M, 39 mL | B(Br)(Br)Br | BBr3
reactant | 5-[5-(5-chloro-2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 13 mmol, 4.39 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC(=C1)Cl)OC)=O | C17H20ClNO4
reactant | boron tribromide | 13 mmol, 1.0 M, 13 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 3.7 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC(=C1)Cl)O)=O | C16H18ClNO4
